US06826033B2
To an ice-cooled solution of (2S)-1,2-epoxy-3-(3-formyl-4-benzyloxyphenoxy)propane (2.6 g) in methanol (30 ml) was added sodium borohydride (381 mg). The mixture was stirred at the same temperature for 1 hour and partitioned between chloroform and saturated sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated to give (2S)-1,2-epoxy-3-(3-hydroxymethyl-4-benzyloxyphenoxy)propane (2.57 g) as a yellow oil.

reactant | (2S)-1,2-epoxy-3-(3-formyl-4-benzyloxyphenoxy)propane | 2.6 g | O1C[C@H]1COC1=CC(=C(C=C1)OCC1=CC=CC=C1)C=O | C17H16O4
reactant | sodium borohydride | 381 mg | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (2S)-1,2-epoxy-3-(3-hydroxymethyl-4-benzyloxyphenoxy)propane | 2.57 g | O1C[C@H]1COC1=CC(=C(C=C1)OCC1=CC=CC=C1)CO | C17H18O4
